US08404709B2
4-(3-Acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)benzonitrile
1.5 g (7.04 mmol) of 4-(2-acetyl-3-oxobut-1-en-1-yl)benzonitrile are mixed with 0.77 g (7.04 mmol) of 4-aminopyridin-2(1H)-one [Searls, T., McLaughlin, L. W., Tetrahedron 55, 11985-11996 (1999)], dissolved in 40 ml of isopropanol and heated under reflux under argon for 4 days. The mixture is then concentrated and the residue is recrystallized from methanol. 0.67 g (31% of theory) of the title compound is obtained as a pale yellow solid.

reactant | 4-(2-acetyl-3-oxobut-1-en-1-yl)benzonitrile | 7.04 mmol, 1.5 g | C(C)(=O)C(=CC1=CC=C(C#N)C=C1)C(C)=O | C13H11NO2
reactant | 4-aminopyridin-2(1H)-one | 7.04 mmol, 0.77 g | NC1=CC(NC=C1)=O | C5H6N2O
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
product | 4-(3-Acetyl-2-methyl-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)benzonitrile | C(C)(=O)C1=C(NC=2C=CNC(C2C1C1=CC=C(C#N)C=C1)=O)C | C18H15N3O2
